US08217069B2
A mixture of 4-bromo-2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-1-nitrobenzene (3.06 g), ethyl acrylate (1.64 mL), palladium(II) acetate (84 mg), tris(2-methylphenyl)phosphine (0.23 g) and triethylamine (5.2 mL) in acetonitrile (30 mL) was heated at reflux overnight. The reaction mixture was cooled to room temperature, and poured into 1 mol/L hydrochloric acid, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=4/1−2/1) to give ethyl 5-chloro-2-(2,3-difluoro-6-methoxybenzyloxy)-4-nitrocinnamate (2.46 g). This material was dissolved in tetrahydrofuran (30 mL). To the solution were added methanol (30 mL) and nickel(II) bromide (63 mg). To the mixture was added sodium borohydride (0.65 g) under ice-cooling, and the mixture was stirred at the same temperature for 30 minutes, and then stirred at room temperature for 30 minutes. The reaction mixture was poured into a saturated aqueous sodium hydrogen carbonate solution, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=4/1−1/1) to give the title compound (0.69 g).

reactant | 4-bromo-2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-1-nitrobenzene | 3.06 g | BrC1=CC(=C(C=C1OCC1=C(C(=CC=C1OC)F)F)[N+](=O)[O-])Cl | C14H9BrClF2NO4
reactant | ethyl acrylate | 1.64 mL | C(C=C)(=O)OCC | C5H8O2
reactant | tris(2-methylphenyl)phosphine | 0.23 g | CC1=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C | C21H21P
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
catalyst | palladium(II) acetate | 84 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | triethylamine | 5.2 mL | C(C)N(CC)CC | C6H15N
product | ethyl 5-chloro-2-(2,3-difluoro-6-methoxybenzyloxy)-4-nitrocinnamate | 2.46 g | ClC=1C(=CC(=C(C=CC(=O)OCC)C1)OCC1=C(C(=CC=C1OC)F)F)[N+](=O)[O-] | C19H16ClF2NO6
